US04547506
2-[N-(3-aminopropyl)-N-propylamino]pyridine (0.88 g) and 2-methylthio-5-(4-methoxybenzyl)pyrimid-4-one (1.0 g) were fused together on an oil bath at 160° C. for 2.5 hr. On cooling the residue was crystallised from ethanol/water and again from acetone/water to give 2-[3-(N-propyl-N-pyrid-2-ylamino) propylamino]-5-(4-methoxybenzyl)pyrimid-4-one 1H2O, 1.27 g (79%) mp indeterminate.

reactant | 2-[N-(3-aminopropyl)-N-propylamino]pyridine | 0.88 g | NCCCN(CCC)C1=NC=CC=C1 | C11H19N3
reactant | 2-methylthio-5-(4-methoxybenzyl)pyrimid-4-one | 1.0 g | CSC1=NC=C(C(N1)=O)CC1=CC=C(C=C1)OC | C13H14N2O2S
product | 2-[3-(N-propyl-N-pyrid-2-ylamino) propylamino]-5-(4-methoxybenzyl)pyrimid-4-one | C(CC)N(C1=NC=CC=C1)CCCNC1=NC=C(C(N1)=O)CC1=CC=C(C=C1)OC | C23H29N5O2
